Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with metastatic clear cell renal cell carcinoma (mets 
to RP and retrocurual/periaortic lymph nodes, no nephrectomy due 
to presumed metastatic disease and atrophic right kidney, mass 
in left kidney) on pazopanib, with history of UTIs, presenting 
with persistent nausea/vomiting for four days. 

Presents with 4 days of painless nausea and vomiting. Unable to
keep down any po. Also reports multiple weeks of dyspnea on
exertion, lightheadedness, gait difficulty, and occasional 
falls.
States last fall was indoor 1 week ago from sitting. Endorses
headstrike, no LOC. He does not have any pain complaints. Denies
headache, abdominal pain, numbness, weakness, vision changes,
bowel or bladder changes. Denies diarrhea, melena, hematochezia.

He was last seen by oncology ___. At that time he noted
persistent nausea but tolerating soft foods/hot tea with honey.
Weight was down 5 pounds, endorsed decreased appetite, and
fatigue despite being on prednisone. He also noted falling a few
times since his last visits, was considering moving to assisted
living. Reported dizziness. 

ED COURSE:
T 97.6 BP 127/71 HR 89 RR 16 100% RA
CHem unremarkable except for BUN/cr ___. Lactate 2.8.
LFTs/lipase WNL. BNP 700s. CBC WNL.
He received 1L IVF, 4mg IV Zofran.

REVIEW OF SYSTEMS:
Per HPI
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
ONCOLOGIC HISTORY: Mr. ___ noted hematuria in late ___.  He underwent a CT scan on ___ revealing a large
lower-mid pole left renal mass, measuring approximately 5.1 cm,
and enlarged retroperitoneal lymph nodes.  He then had an
abdominal MRI on ___ revealing a 5-cm left renal mass,
retroperitoneal lymphadenopathy, an atrophic right kidney with
hydronephrosis and ureteral stent in place. He was referred to
Dr. ___ urology at ___ on ___. He
recommended biopsy of the left renal mass, removal and
replacement of the stent, and consult with Dr. ___. On
___, he saw Dr. ___ recommended left partial
nephrectomy.  He then was referred to Dr. ___ urologic
surgery at ___ who suggested a chest CT and
renal biopsy followed by possible robotic surgery. He was
referred to ___ on ___ with close observation recommended
(surgery was not pursued due to presumed metastatic disease and
atrophic right kidney).  

Chest CT on ___ did not reveal lung metastases. Abd/pelvic CT
___ showed a 6.5 cm left renal mass, increase in bulky
retrocrural and periaortic retroperitoneal lymphadenopathy and 
an
atrophic right kidney. He was hospitalized in ___ with a 
UTI
and underwent a CT scan showing growth in the left kidney mass.
He was noted to have worsening renal function with creat of 2.8
and was referred to Dr. ___ in nephrology with GFR just over
20. He underwent CT guided biopsy of a left RP lymph node on
___ confirming clear cell RCC.

He began pazopanib 400 mg daily on ___, increased to 600 mg
daily on ___. Therapy was held on ___ due to GI side
effects. Hypothyroidism was noted at this time with 
levothyroxine
started. Torso CT ___ showed disease regression. He 
restarted
pazopanib at 600 mg daily (instead of planned 400 mg) in early
___ with return of GI symptoms and development of gout in 
the
right hand/wrist. Pazopanib therapy was held and prednisone
started. He restarted pazopanib on ___ after improvement in
GI side effects and gout.

At a prior visit, pazopanib was held due to
mouth/tooth pain r/t recent extraction; he saw his oral surgeon
with bone splinters noted and removed with improvement in
discomfort. Pazopanib was restarted several days later on
___.

CURRENT THERAPY: Pazopanib 400 mg daily started ___, 
increased
to 600 mg, dose reduced back to 400 mg daily ___.

Past Medical History:  Obesity, diabetes (well controlled 
without
medication) hypertension, gout, depression, dyslipidemia, 
chronic
renal failure, history of UTIs, nephrolithiasis, congenital
malformation of the left arm.

Past Surgical History:  History of cystoscopy with stent
placement approximately ___ years ago, history of tonsillectomy
and adenoidectomy.
 
Social History:
___
Family History:
No history of renal cell carcinoma.  His mother
died in her ___ from a stroke.  Father died at age ___ of colon
cancer and had a history of dementia.  Positive family history 
of
coronary artery disease with his uncle dying at a young age.
 
Physical Exam:
Admission Physical Exam:
========================
VITAL SIGNS: 98.2 146/71 76 18 100 RA 
General:  NAD, obese 
HEENT:  MMM, +thrush, poor dentition , no cervical,
supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. Cranial nerves II-XII are within normal
limits excluding visual acuity which was not assessed, no
nystagmus; strength is ___ of the proximal and distal upper and
lower extremities; reflexes are 2+ of the biceps, triceps,
patellar, and Achilles tendons, toes are down bilaterally; gait
is normal, coordination is intact.

Discharge Physical Exam:
========================
VS: 98.4 165/76 65 16 98% RA
GEN: NAD  
HEENT: PERRLA. EOMI. Visual fields WNL.  MMM. No LAD. 
NECK: No JVD. Neck supple. No cervical, supraclavicular, or 
axillary LAD.  
Cards: RRR, S1/S2 normal, no murmurs/gallops/rubs.  
Pulm: CTAB  
Abd: BS+, soft, NT/ND, no rebound/guarding
Extremities: WWP, 1+ edema b/l with chronic venous stasis skin 
changes. DPs, PTs 2+.  
Skin: Chronic venous stasis skin changes b/l on ___ with grade 1 
ulcer on lateral aspect of L ankle
Neuro: AA&Ox3, CNs II-XII intact. ___ strength in U/L 
extremities. Cerebellar fxn intact (FTN, HTS).  
 
Pertinent Results:
Admission Labs:
===============
___ 05:40PM BLOOD WBC-6.1 RBC-3.80* Hgb-12.8* Hct-40.3 
MCV-106* MCH-33.7* MCHC-31.8* RDW-16.4* RDWSD-64.1* Plt ___
___ 05:40PM BLOOD Neuts-63.6 ___ Monos-8.5 Eos-3.0 
Baso-0.5 Im ___ AbsNeut-3.88 AbsLymp-1.47 AbsMono-0.52 
AbsEos-0.18 AbsBaso-0.03
___ 05:40PM BLOOD Glucose-94 UreaN-28* Creat-2.1* Na-143 
K-4.2 Cl-104 HCO3-22 AnGap-21*
___ 05:40PM BLOOD ALT-11 AST-20 AlkPhos-81 TotBili-0.8
___ 05:40PM BLOOD Lipase-13
___ 05:40PM BLOOD proBNP-766
___ 05:40PM BLOOD Albumin-3.6
___ 05:44PM BLOOD Lactate-2.8*
___ 03:35PM BLOOD Lactate-1.3

Discharge Labs:
===============
___ 06:15AM BLOOD WBC-5.0 RBC-3.26* Hgb-11.3* Hct-35.9* 
MCV-110* MCH-34.7* MCHC-31.5* RDW-16.2* RDWSD-66.1* Plt ___
___ 06:15AM BLOOD ___ PTT-34.6 ___
___ 06:15AM BLOOD Glucose-81 UreaN-24* Creat-1.9* Na-142 
K-5.0 Cl-108 HCO3-19* AnGap-20
___ 06:15AM BLOOD ALT-6 AST-14 LD(LDH)-285* AlkPhos-69 
TotBili-0.4
___ 06:15AM BLOOD Calcium-8.2* Phos-2.9 Mg-1.9

Micro:
======
Blood cx ___: Pending
Urine cx ___: Mixed bacterial flora

Imaging:
========
CT torso w/o contrast ___: 
Small scattered mediastinal lymph nodes are unchanged. The 
scattered 
calcified granulomas are noted. There is no new or growing 
pulmonary nodule.  There is no focal consolidation or pleural 
effusion. Enlargement of the main pulmonary artery is unchanged 
and suggestive of pulmonary arterial hypertension. Deformity of 
the xiphoid process and degenerative changes in the spine are 
noted. An indeterminate hyperdense exophytic lesion arising from 
the upper pole of 
the left kidney measures 16 x 19 mm, previously 12 x 16 mm. 
Known renal cell carcinoma arising from the interpolar left 
kidney is partially exophytic measuring 26 x 30 mm, previously 
26 x 32 mm. The right kidney is atrophic. A double-J right 
ureteral stent is again noted. Retroperitoneal lymphadenopathy 
is overall similar compared to the prior study. 

Mandible Series ___:
No obvious bone destruction.  No acute fracture is seen.  Dental 
amalgam is noted.  No periosteal reaction is seen. 

Noncon CT head ___:
1. New 1.3 cm right retro-orbital lesion, for which the
differential includes a soft tissue mass such as a lymphoma
versus a vascular abnormality arising from the superior
ophthalmic vein. Further characterization with an MRI is
recommended.  2. No intracranial hemorrhage identified.
(Note: appears to have been present on Head CT ___, but much 
smaller at that time)

CXR ___:
CXR showed no acute process. 
 
Brief Hospital Course:
___ male with metastatic L renal clear cell carcinoma in 
the setting of an atrophic right kidney and chronic renal 
failure, currently on pazopanib and steroids presenting with 
persistent N/V and new retro-orbital mass on NCHCT.

# Metastatic RCC: Tolerating pazopanib fairly well with minimal
nausea at last clinic visit. Pazopanib had been held in ___ in case of infection, as he was having more nausea than 
before and reporting mouth pain. Resumed pazopanib on ___. 
He did not take pazopanib for 4 days PTA given nausea/vomiting. 
He is on 10mg Prednisone daily (for chemo/gout) but had not 
taken his dose for 4 days PTA ___ nausea/vomiting. Pt had CT 
torso w/o contrast on ___ for routine cancer staging (was 
scheduled as outpatient for ___ but performed in-house for pt 
convenience), which showed unchanged small scattered mediastinal 
LNs, no new pulmonary nodules, an indeterminate hyperdense 
exophytic lesion arising from the upper pole of the left kidney 
measuring 16 x 19 mm (previously 12 x 16 mm), known renal cell 
carcinoma arising from the interpolar left kidney that is 
partially exophytic and measuring 26 x 30 mm (previously 26 x 32 
mm), known atrophic right kidney, and stable retroperitoneal 
lymphadenopathy. Pazopanib held during admission and will be 
restarted at rehab. Prednisone 10mg daily continued. Pt may need 
PET as outpatient for staging given known metastatic disease.

# Retro-orbital Lesion on ___:
CT head ___ showed 1.3cm retro-orbital lesion that had been 
present on CT ___ but was much smaller at that time. PERRL, 
EOMI, no pain with eye movements, no double or blurry vision per 
pt, possible inferior visual field defect on exam (but Dr. 
___ Neuro ___ did not appreciate any visual field 
deficits). Suspect that this lesion is most likely a vascular 
structure. Patient was scheduled to follow-up with ophthalmology 
regarding further evaluation of this lesion.  Further imaging 
could be considered including open MRI with contrast, although 
his CKD is borderline for gadolinium contrast. 

# Nausea/vomiting: Resolved and pt tolerating PO by HD2 after 
starting ceftriaxone for suspected UTI. Therefore, 
nausea/vomiting was most likely related to UTI, as pt reports 
nausea/vomiting with prior UTIs. On presentation, pt was not 
endorsing urinary urgency/frequency/dysuria, but UA with large 
___, >182 WBCs, and few bacteria. Urine cx with mixed bacterial 
flora. Cannot rule out that nausea/vomiting is due to viral 
gastroenteritis or side effect of pazopanib (although had not 
taken for 4 days PTA). Unlikely GI/biliary source of 
nausea/vomiting as LFTs and tbili were WNL. Pt discharged with 4 
more days of cipro to complete 7-day course of UTI treatment. 
Pazopanib held throughout admission and per outpatient 
oncologist, Dr. ___ should restart it while at rehab. 
Pt discharged with PRN PO Zofran, PO Compazine, and PO Ativan 
for possible nausea related to pazopanib. Pt instructed to take 
PO Compazine 30 minutes prior to his pazopanib dose to reduce 
risk of nausea, although QTc should be checked prior to 
initiating this regimen, as pt has not required Compazine or 
Zofran in the hospital and will be initiating Cipro to start at 
___. 

# UTI: Has h/o recurrent UTIs. Pt not reporting dysuria, 
frequency, or urgency on admission. UA on admission with large 
___, >182 WBCs, and few bacteria. Urine cx with mixed bacterial 
flora. Initially treated with ceftriaxone, and nausea/vomiting 
resolved. Given improvement in nausea/vomiting symptoms after 
starting UTI treatment, pt discharged with ciprofloxacin for 4 
days to end on ___ for a total of a 7 day course of abx.

# Thrush: Given thrush on examination and poor dentition, 
concern for oropharyngeal candidiasis. Pt should continue 
Nystatin swish and swallow QID PRN.

# Poor Dentition and Mouth/Cheek Pain/Paresthesia: Pt reports 
having L molar extraction in ___ with paresthesia in 
cheek and continued pain in mouth. OMFS consulted. Per their 
exam, no appreciable asymmetric edema in his cheeks. Panorex 
ordered, and per their read no obvious orthodontic infection or 
source of pain/paresthesia. Could not definitively r/o 
metastasis to jaw with x-rays, so consider PET CT as outpatient 
(as above). Started Peridex mouth rinse BID and 
Benadryl/Maalox/Lidocaine mouthwash TID PRN mouth pain. Pt 
should f/u with outpatient dentist for further management of 
poor dentition.

# H/o Fall at Home: Pt with at least two recent mechanical falls 
at home. ___ consult saw him and recommended acute rehab due to 
risk for falls given decreased balance, decreased muscle 
strength, falls history, and pain.  Expect less than 2 week 
duration of stay.   

# Gout: No evidence of recurrence. Continued renally dosed 
allopurinol and prednisone.

# CKD: CKD likely due to RCC on left and atrophic right kidney. 
Cr in-house 2.1 -> 1.9, both of which appear to be about his 
baseline.  

# Hypothyroidism: Levothyroxine continued. 

Transitional Issues: 
[] Ativan should be first line choice for nausea
[] Pt should restart pazopanib at rehab.
[] Pt should continue ciprofloxacin 500mg PO BID x4 days after 
discharge, QTc should be checked prior to administration of 
Compazine or Zofran after starting cipro
[] Routine surveillance CT C/A/P w/o contrast had been ordered 
to be performed as an outpatient on ___ but was performed as 
an inpatient for pt convenience. Outpatient oncologist should 
f/u the results of the CT C/A/P, and can consider PET CT as 
outpatient for further cancer staging/monitoring. 
[] Outpatient oncologist can consider ordering outpatient open 
MRI head with gadolinium with thin cuts through the orbits to 
further characterize 1.3cm retro-orbital lesion that was seen on 
___ ___.
[] Pt should follow up with oculoplastic orbital specialist on 
___ at 10:00am for new retro-orbital lesion. 
[] Pt started on Peridex mouth wash BID and 
Benadryl/Maalox/Lidocaine mouthwash TID PRN for mouth pain. Pt 
should follow up with his outpatient dentist for further 
management of his poor dentition. 
[] QTc should be checked prior to giving Zofran or Compazine, as 
pt has not required these medications in-house. 

Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. PAZOPanib 400 mg oral Q24H 
4. LORazepam 0.5-1 mg PO Q4H:PRN anxiety/nausea 
5. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
6. Sertraline 50 mg PO DAILY 
7. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. LORazepam 0.5-1 mg PO Q4H:PRN anxiety/nausea 
RX *lorazepam 0.5 mg ___ tablets by mouth every four hours Disp 
#*12 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
5. PredniSONE 10 mg PO DAILY 
6. Sertraline 50 mg PO DAILY 
7. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
patient may refuse 
8. Maalox/Diphenhydramine/Lidocaine ___ mL PO TID:PRN mouth 
pain 
9. Nystatin Cream 1 Appl TP BID 
10. Nystatin Oral Suspension 5 mL PO QID 
11. Prochlorperazine 10 mg PO Q6H:PRN nausea 
12. PAZOPanib 400 mg oral Q24H 
Please restart this medication on ___. Ondansetron 4 mg PO Q8H:PRN nausea 
14. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Metastatic renal clear cell carcinoma
Retro-orbital mass of unclear etiology
UTI
Thrush
Poor dentition
Recurrent falls

Secondary:
Gout
CKD
Hypothyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You came into ___ with 
nausea/vomiting and inability to take any food or medications by 
mouth for several days. You were treated for a UTI, and your 
symptoms improved. You should continue an antibiotic called 
ciprofloxacin for 4 more days after discharge. Your chemo pill, 
pazopanib, was held for several days in case it was contributing 
to your nausea/vomiting. You should restart it at rehab. A 
screening CT scan showed that your renal cell cancer is fairly 
stable on the chemo pill. You may need a PET CT as an outpatient 
for further monitoring of your cancer. 

You were found to have a new lesion behind your eye, and your 
outpatient oncologist, Dr. ___ help arrange an open 
MRI head for you to further characterize the lesion. 

You were discharged to ___ for further physical therapy 
to build up your strength and decrease your risk of falling at 
home. 

You were started on two different types of mouthwash for your 
mouth pain, which you should continue. You should follow up with 
your outpatient dentist once you are finished with rehab. 

Thank you for allowing us to be involved in your care.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___